US03974158
A solution of (2S)-4-benzyl-2-(2-ethoxyanilino)methylmorpholine dihydrochloride (5 g.) in a mixture of ethanol (50 ml.) and water (5 ml.) is shaken in an atmosphere of hydrogen with palladium on carbon catalyst (0.5 g. 5%) until no more hydrogen is absorbed. The catalyst is removed by filtration and the filtrate is evaporated under reduced pressure when (2S)-2-(2-ethoxyanilino)methylmorpholine dihydrochloride (3.7 g.) is obtained as a hydroscopic solid. The dihydrochloride is dissolved in water (100 ml.), the solution is basified with sodium hydroxide solution and extracted with ether (2 × 100 ml.). The ethereal extract is dried (Na2SO4), filtered and the filtrate is then carefully titrated with an ethereal solution of hydrogen chlroide to give (2S)-2-(2-ethoxyanilino)methylmorpholine hydrochloride, m.p. 158°-159°C. on recrystallisation from ethanol [α]D28 - 2.2° (c,4 in methanol).

reactant | (2S)-4-benzyl-2-(2-ethoxyanilino)methylmorpholine dihydrochloride | 5 g | Cl.Cl.C(C1=CC=CC=C1)N1C[C@@H](OCC1)CNC1=C(C=CC=C1)OCC
reactant | hydrogen | [H][H] | H2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | (2S)-2-(2-ethoxyanilino)methylmorpholine hydrochloride | Cl.C(C)OC1=C(NC[C@@H]2CNCCO2)C=CC=C1 | InChI=1S/C13H20N2O2.ClH/c1-2-16-13-6-4-3-5-12(13)15-10-11-9-14-7-8-17-11;/h3-6,11,14-15H,2,7-10H2,1H3;1H/t11-;/m0./s1
